US08912188B2
To a solution of 4-bromo-2-ethylbenzenamine (1.5 g, 7.50 mmol) in AcOH (20 mL) was added NaNO2 (570 mg, 8.14 mmol). After stirring for 2.5 h at room temperature, the resulting mixture was concentrated under reduced pressure to afford a residue, which was purified by a silica gel column with 1% methanol in dichloromethane to afford 5-bromo-3-methyl-1H-indazole as a light red solid (700 mg, 44%).

reactant | 4-bromo-2-ethylbenzenamine | 7.50 mmol, 1.5 g | BrC1=CC(=C(C=C1)N)CC | C8H10BrN
reactant | NaNO2 | 8.14 mmol, 570 mg | N(=O)[O-].[Na+]
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 5-bromo-3-methyl-1H-indazole | 700 mg, 44% | BrC=1C=C2C(=NNC2=CC1)C | C8H7BrN2
